US08222416B2
To a suspension of 1-benzenesulfonyl-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridine (1.0 g, 3.07 mmol) in dry tetrahydrofuran (50 mL) at −78° C. was added a solution of n-butyllithium in n-hexane (2.5 M, 1.5 mL, 3.68 mmol) dropwise. The mixture was stirred at −78° C. for 5 min and then treated with cyclopentanecarbaldehyde (0.52 g, 4.6 mmol) dropwise. The resulting mixture was stirred at −78° C. for 1 h and quenched with brine. The mixture was extracted with ethyl acetate (2×100 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash column chromatography (QingDao silica gel, 200-300 mesh, 50% dichloromethane/hexanes) afforded 1-(1-benzenesulfonyl-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanol (1.34 g, 100%): LC/MS m/e calcd for C21H21F3N2O3S [M+H]+ 439.47, observed 438.7.

reactant | 1-benzenesulfonyl-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridine | 3.07 mmol, 1.0 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)C(F)(F)F | C14H9F3N2O2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | n-hexane | 3.68 mmol, 2.5 M, 1.5 mL | CCCCCC | C6H14
reactant | cyclopentanecarbaldehyde | 4.6 mmol, 0.52 g | C1(CCCC1)C=O | C6H10O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-(1-benzenesulfonyl-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanol | 1.34 g, 100% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C(F)(F)F)C(CC2CCCC2)O | C21H21F3N2O3S
